US09120749B2
{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[trans-4-(methylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate (0.125 mmol) was reacted with TFA (2 mL) to afford the desired product (32 mg, 55% over two steps) as a yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 9.80 (s, 1H), 9.8 (s, 1H), 8.25 (s, 1H), 7.99 (d, J=8.7 Hz, 1H), 7.83 (d, J=8.7 Hz, 1H), 7.49-7.34 (m, 2H), 4.00-3.94 (s, 1H), 3.00-2.85 (m, 1H), 2.85-2.74 (m, 1H), 2.44 (s, 3H), 2.25-2.04 (m, 4H), 1.60-1.30 (m, 4H), 1.15-0.98 (m, 4H); ESI MS m/z 468 [C26H27ClFN3O2+H]+; HPLC>99% (AUC), tR=10.03 min.

reactant | tert-butyl trans-4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]cyclohexyl(methyl)carbamate | 0.125 mmol | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C(OC(C)(C)C)=O)C | C31H35ClFN3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[trans-4-(methylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 32 mg, 55% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC | C26H27ClFN3O2
